US05466823
Step 1: Preparation of methyl-4-[4-(chloro)phenyl]-2,4-dioxobutanoate
Dimethyl oxalate (23.6 g, 200 mmol) was placed in a 500 mL three-necked round bottom flask, and dissolved in diethyl ether (200 mL). To the stirred solution was added 25 weight % sodium methoxide in methanol (48 mL, 210 mmol) via an addition funnel over a 2 minute period. Next, 4'-chloroacetophenone (25.94 g, 200 mmol) was dissolved in diethyl ether (50 mL), and added to the reaction dropwise over 3 minutes. After stirring overnight (18 hours), 1N HCl (400 mL) and ethyl acetate (750 mL) were added. The organic layer was collected, washed with brine (350 mL), dried over MgSO4, filtered, and concentrated in vacuo to give 45.7 g of a yellow solid. The solid was recrystallized from ethyl acetate and iso-octane to give 23 g, 48% of the dione, mp 108.5°-110.5° C.

reactant | Dimethyl oxalate | 200 mmol, 23.6 g | C(C(=O)OC)(=O)OC | C4H6O4
reactant | sodium methoxide | C[O-].[Na+]
reactant | methanol | 210 mmol, 48 mL | CO | CH4O
reactant | 4'-chloroacetophenone | 200 mmol, 25.94 g | ClC1=CC=C(C=C1)C(C)=O | C8H7ClO
reactant | HCl | 1N, 400 mL | Cl | ClH
solvent | diethyl ether | 200 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
solvent | ethyl acetate | 750 mL | C(C)(=O)OCC | C4H8O2
product | methyl-4-[4-(chloro)phenyl]-2,4-dioxobutanoate | 45.7 g | COC(C(CC(=O)C1=CC=C(C=C1)Cl)=O)=O | C11H9ClO4
